US07101899B1
N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]-N-methylphenylacetamide
Sodium hydride (60% paraffin dispersion, 58 mg, 1.5 mmol) was added to a solution of N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]phenylacetamide (0.50 g, 1.2 mmol) in dimethyl sulfoxide (5 mL) and the mixture was stirred at room temperature for 1 hour. Methyl iodide (0.09 mL, 1.5 mmol) was added to this reaction solution and the mixture was stirred at room temperature for 1 hour. A 10% aqueous solution of ammonium chloride was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 7:1→4:1) and washed with hexane to obtain 0.18 g (yield 35%) of the title compound.

reactant | Sodium hydride | 1.5 mmol, 58 mg | [H-].[Na+]
reactant | N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]phenylacetamide | 1.2 mmol, 0.50 g | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)NC(CC1=CC=CC=C1)=O | C25H23N3OS
reactant | Methyl iodide | 1.5 mmol, 0.09 mL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]-N-methylphenylacetamide | 0.18 g, yield 35% | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N(C(CC1=CC=CC=C1)=O)C | C26H25N3OS
